* CMOS Inverter Switching Waveform
* Classic complementary MOS inverter driven by a square-wave pulse
* input. Transient capture shows the rising / falling edge timing
* into a capacitive load - the canonical propagation-delay testbed.
* Devices exercised: V, M (PMOS bundled BSS84 + NMOS bundled BSS123), C.

.title CMOS Inverter Switching

* --- Supply and 5 V pulse input (100 ns edges, 500 ns pulse width) ---
Vdd vdd 0 DC 5
Vin in  0 PULSE(0 5 0 100n 100n 500n 1u)

* --- PMOS pull-up ---
M1 out in vdd vdd BSS84

* --- NMOS pull-down ---
M2 out in 0   0   BSS123

* --- Output load capacitor ---
Cload out 0 10p

* --- Analysis: a handful of switching periods ---
.tran 10n 5u

.MEASURE TRAN t_pdhl TRIG V(in)  VAL=2.5 RISE=1 TARG V(out) VAL=2.5 FALL=1
.MEASURE TRAN t_pdlh TRIG V(in)  VAL=2.5 FALL=1 TARG V(out) VAL=2.5 RISE=1

.end
